US07838547B2
5-(4-Nitrophenyl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester
A suspension of 2,5-diazabicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (400 mg) and potassium carbonate (300 mg) in DMF (5 ml) was mixed with 4-fluoronitrobenzene (290 mg). After 2 hours, the reaction mixture was poured into water, and the resulting precipitate was filtered off with suction. Alternatively, the product can also be extracted with ethyl acetate and purified after concentration by chromatography. The product with the molecular weight of 319.36 (C16H21N3O4); MS (ESI): 320 (M+H+) was obtained in this way.

reactant | 2,5-diazabicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 400 mg | C(C)(C)(C)OC(=O)N1C2CNC(C1)C2 | C10H18N2O2
reactant | potassium carbonate | 300 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluoronitrobenzene | 290 mg | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | water | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5-(4-Nitrophenyl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CN(C(C1)C2)C2=CC=C(C=C2)[N+](=O)[O-] | C16H21N3O4
